US07399867B2
3-Fluoro-4-(methanesulfonyl)phenyl boronic acid
Combine 2-(3-fluoro-4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (222 mg, 0.74 mmol), NaIO4 (474 mg, 2.2 mmol), tetrahydrofuran (THF, 4 mL) and water (1 mL). Stir for 2 hours and add 2M HCl in diethyl ether (0.2 mL). Stir another 12 hours and filter away the solid. Wash the filtrate with brine (10 mL), dry with MgSO4 and evaporate the solvent. Wash the solid with hexane (2×10 mL) and ether (10 mL). Dry the solid under vacuum to obtain 68 mg of the title compound (42%).

reactant | 2-(3-fluoro-4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.74 mmol, 222 mg | FC=1C=C(C=CC1S(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H18BFO4S
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | water | 1 mL | O | H2O
reactant | HCl | 2M | Cl | ClH
solvent | diethyl ether | 0.2 mL | C(C)OCC | C4H10O
product | 3-Fluoro-4-(methanesulfonyl)phenyl boronic acid | 68 mg, 42% | FC=1C=C(C=CC1S(=O)(=O)C)B(O)O | C7H8BFO4S
